US06353006B1
2-Chloroethylammonium chloride (Entry 1) was reacted with 2,3-dichlorophenyl isothiocyanate according to Method C1a to give 2-(2,3-dichlorophenylimino)-1,3-thiazolidine, which was reacted with isobutyl bromide according to Method D2a to give 2-(2,3-dichlorophenylimino)-3-isobutyl-1,3-thiazolidine.

reactant | 2-Chloroethylammonium chloride | [Cl-].ClCC[NH3+]
reactant | 2,3-dichlorophenyl isothiocyanate | ClC1=C(C=CC=C1Cl)N=C=S | C7H3Cl2NS
product | 2-(2,3-dichlorophenylimino)-1,3-thiazolidine | ClC1=C(C=CC=C1Cl)N=C1SCCN1 | C9H8Cl2N2S
